US05620997
4-Mercapto-2-phenyl-pyrimidine-5-carboxylic acid (2-diethylamino-ethyl)-amide
Using the procedure in Preparation 34, 6.4 g (0.02 mol) of 4-chloro-2-phenyl-pyrimidine-5-carboxylic acid (2-diethylamino-ethyl)-amide was reacted with 4.8 g (0.066 mol) of sodium hydrogen sulfide to afford 4.2 g of the title compound, mp 178°-180° C.

reactant | 4-chloro-2-phenyl-pyrimidine-5-carboxylic acid (2-diethylamino-ethyl)-amide | 0.02 mol, 6.4 g | C(C)N(CCNC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)Cl)CC | C17H21ClN4O
reactant | sodium hydrogen sulfide | 0.066 mol, 4.8 g | S.[Na]
product | 4-Mercapto-2-phenyl-pyrimidine-5-carboxylic acid (2-diethylamino-ethyl)-amide | 4.2 g | C(C)N(CCNC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)S)CC | C17H22N4OS
